US04009208
9. N,N'-Heptamethylenebis(4-pentyloxybenzamide)
m.p. 155°-156° C., 29.9 g., was prepared as in Example 1 using 50 g. of 4-pentyloxybenzoyl chloride in 200 ml. of ethylene dichloride, 13.0 g. of 1,7-heptanediamine, 250 ml. of 10% aqueous potassium hydroxide solution, 500 ml. of ethylene dichloride and recrystallization from ethanol.

reactant | 4-pentyloxybenzoyl chloride | C(CCCC)OC1=CC=C(C(=O)Cl)C=C1 | C12H15ClO2
reactant | 1,7-heptanediamine | C(CCCCCCN)N | C7H18N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Heptamethylenebis(4-pentyloxybenzamide) | C(CCCC)OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OCCCCC)=O)C=C1 | C31H46N2O4
